US09108983B2
Step A: 4-Bromo-1-(oxetan-3-yl)-1H-pyrazole
4-Bromo-1H-pyrazole (1.53 g, 10.7 mmol) is dissolved in anhydrous dimethylformamide (15 mL). 3-Bromooxetane (2.0 g, 14.6 mmol) and caesium carbonate (4.7 g, 14 mmol) are successively added thereto. The reaction mixture is heated for 8 hours at 130° C. in a sealed flask. At the end of the reaction, the solvent is evaporated off in vacuo and the residue is purified by chromatography over silica gel using dichloromethane containing diethylamine and methanol as eluants to yield the expected compound.

reactant | 4-Bromo-1H-pyrazole | 10.7 mmol, 1.53 g | BrC=1C=NNC1 | C3H3BrN2
reactant | 3-Bromooxetane | 14.6 mmol, 2.0 g | BrC1COC1 | C3H5BrO
reactant | caesium carbonate | 14 mmol, 4.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-1-(oxetan-3-yl)-1H-pyrazole | BrC=1C=NN(C1)C1COC1 | C6H7BrN2O
